US08124766B2
(S)-3-{5-[(5-Bromo-1-ethyl-1H-indole-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride
With a method similar to that used for the preparation of (S)-3-{5-[(5-bromo-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride, (S)-3-{5-[(5-bromo-1-ethyl-1,4-indole-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride was prepared from (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester and 5-bromo-1-ethyl-indole-2-carboxylic acid. LCMS for C23H26BrN5O3 calcd. (m/e) 499, observed 500 (M+H).

reactant | (S)-3-{5-[(5-bromo-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)NC(=O)C1=CC2=C(S1)C=CC(=C2)Br
reactant | (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)N | C12H18N4O2
reactant | 5-bromo-1-ethyl-indole-2-carboxylic acid | BrC=1C=C2C=C(N(C2=CC1)CC)C(=O)O | C11H10BrNO2
product | (S)-3-{5-[(5-Bromo-1-ethyl-1H-indole-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)NC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC | InChI=1S/C23H26BrN5O3.ClH/c1-3-29-19-7-5-16(24)11-15(19)12-20(29)22(30)27-17-6-8-21(25-13-17)26-18-9-10-28(14-18)23(31)32-4-2;/h5-8,11-13,18H,3-4,9-10,14H2,1-2H3,(H,25,26)(H,27,30);1H/t18-;/m0./s1
